US08957089B2
41.6 1-[1-(4-Chloro-phenyl)-cyclobutyl]-7-piperazin-1-yl-3,4-dihydro-isoquinoline
1-[1-(4-Chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-ylamine (400 mg, 0.75 mmol) was dissolved in HBr/acetic acid (10 ml, 33%) and stirred for 3 h at 70° C. Another 10 ml of the HBr/acetic acid solution was added and the mixture was stirred for another 8 h at 70° C. The solvent was diluted with 1 N sodium hydroxid solution and extracted with dichloromethane. The combined organic layers were washed with saturated sodium chloride solution and dried with sodium sulphate. The residue was purified by flash column chromatography on silica with dichloromethane/methanol 98:2→95:5. The product was obtained as a brown oil (100 mg, 0.26 mmol, 35%) that was sufficiently pure for the next step.

reactant | 1-[1-(4-Chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-ylamine | 0.75 mmol, 400 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)N | C19H19ClN2
solvent | HBr acetic acid | 10 ml | Br.C(C)(=O)O
solvent | sodium hydroxid | 1 N | [OH-].[Na+]
solvent | HBr acetic acid | 10 ml | Br.C(C)(=O)O
product | 1-[1-(4-Chloro-phenyl)-cyclobutyl]-7-piperazin-1-yl-3,4-dihydro-isoquinoline | 0.26 mmol, 100 mg, 35% | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)N1CCNCC1 | C23H26ClN3
